US04219559
A mixture of 3.6 parts of morpholine, 4.8 parts of N-[1-(2-chloroethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine dihydrochloride, 0.1 parts of potassium iodide and 135 parts of N,N-dimethylformamide is stirred and heated overnight at 70° C. The reaction mixture is poured onto water and the product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in methanol. The salt is filtered off and dried, yielding 1 part (18.3%) of 1-(4-fluorophenylmethyl)-N-{1-[2-(4-morpholinyl)ethyl]-4-piperidinyl}-1H-benzimidazol-2-amine trihydrochloride; mp.+300° C.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | N-[1-(2-chloroethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine dihydrochloride | Cl.Cl.ClCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-fluorophenylmethyl)-N-{1-[2-(4-morpholinyl)ethyl]-4-piperidinyl}-1H-benzimidazol-2-amine trihydrochloride | 18.3% | Cl.Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2CCOCC2 | InChI=1S/C25H32FN5O.3ClH/c26-21-7-5-20(6-8-21)19-31-24-4-2-1-3-23(24)28-25(31)27-22-9-11-29(12-10-22)13-14-30-15-17-32-18-16-30;;;/h1-8,22H,9-19H2,(H,27,28);3*1H
